US09371327B2
Step 1: 1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione
A suspension of 3-Methyluracil (3.0 g, 23.8 mmol), isobutyl iodide (7 mL, 60 mmol) and cesium carbonate (11.6 g, 35.7 mmol) in DMF (30 mL) is stirred at room temperature over a weekend. Solvent is removed under vacuum. The residue is treated with water, and then extracted with dichloromethane four times. The combined organic phase is washed with brine, dried over anhydrous sodium sulfate, and then filtered through a short silica gel column. The filtrate is concentrated to dryness to give product as off white solids, which is used in the next step without further purification. MS (ESI) m/z 183.1 [M+H]+.

reactant | 3-Methyluracil | 23.8 mmol, 3.0 g | CN1C(NC=CC1=O)=O | C5H6N2O2
reactant | isobutyl iodide | 60 mmol, 7 mL | C(C(C)C)I | C4H9I
reactant | cesium carbonate | 35.7 mmol, 11.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-isobutyl-3-methylpyrimidine-2,4(1H,3H)-dione | C(C(C)C)N1C(N(C(C=C1)=O)C)=O | C9H14N2O2
